* Z:\mnt\design.r\spice\examples\1879.asc
V1 IN 0 5
C1 N005 0 .001µ
C2 OUT 0 47µ
L1 N002 OUT 6.2µ Rpar=1K
R1 OUT N004 80.6K
R2 N004 0 28K
R3 N006 N005 150K
C3 N008 0 47p
R4 N007 N008 150K
C4 N003 0 .002µ
R5 IN N003 1Meg
R6 IN N001 10K
XU1 0 N003 N004 N007 N002 N002 0 IN MP_01 MP_02 MP_03 MP_04 IN N001 0 N006 LTC1879
Rload OUT 0 3
.tran 1.5m startup
.lib LTC1879.sub
.backanno
.end
